US07241767B2
Step C: Preparation of 2-(3-bromo-1H-pyrazol-1-yl)-3-chloropyridine
To a mixture of 2,3-dichloropyridine (27.4 g, 185 mmol) and 3-bromopyrazole (25.4 g, 176 mmol) in dry N,N-dimethylformamide (88 mL) was added potassium carbonate (48.6 g, 352 mmol), and the reaction mixture was heated to 125° C. for 18 hours. The reaction mixture was cooled to room temperature and poured into ice water (800 mL). A precipitate formed. The precipitated solids were stirred for 1.5 hrs, filtered and washed with water (2×100 mL). The solid filter cake was taken up in dichloromethane and washed sequentially with water, 1N hydrochloric acid, saturated aqueous sodium bicarbonate solution, and brine. The organic extracts were then dried over magnesium sulfate and concentrated to afford 39.9 g of a pink solid. The crude solid was suspended in hexane and stirred vigorously for 1 hour. The solids were filtered, washed with hexane and dried to afford the title product as an off-white powder (30.4 g) determined to be >94% pure by NMR. This material was used without further purification in Step D.

reactant | 2,3-dichloropyridine | 185 mmol, 27.4 g | ClC1=NC=CC=C1Cl | C5H3Cl2N
reactant | 3-bromopyrazole | 176 mmol, 25.4 g | BrC1=NNC=C1 | C3H3BrN2
reactant | potassium carbonate | 352 mmol, 48.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 88 mL | CN(C=O)C | C3H7NO
product | 2-(3-bromo-1H-pyrazol-1-yl)-3-chloropyridine | 39.9 g | BrC1=NN(C=C1)C1=NC=CC=C1Cl | C8H5BrClN3
